US07476685B2
Oxalyl chloride (6.4 ml, 2M) was added to a suspension of 4-trifluoromethylnicotinic acid (2 g) and a catalytic amount of N,N-dimethylformamide in dichloromethane, and stirred at 20° C. for 1 hour to give a solution of 4-trifluoromethylnicotinic acid chloride. N,N-Ethylenethiourea (2.23 g) was added to sodium hydride (0.82 g, 60% dispersion in mineral oil) in tetrahydrofuran, and the mixture was stirred at 20° C. for 1 hour, and then added to the above solution of 4-trifluoromethylnicotinic acid chloride with ice bath cooling, then stirred at 20° C. for 1 hour. Ethyl acetate was added and the mixture washed with water, dried (magnesium sulfate), evaporated and the residue crystallized (ethanol) to give N-(4-trifluoromethyl-3-pyridylcarbonyl)-imidazolin-2-thione (1.35 g, Compound S-356).

reactant | Oxalyl chloride | 2M, 6.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-trifluoromethylnicotinic acid | 2 g | FC(C1=CC=NC=C1C(=O)O)(F)F | C7H4F3NO2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-trifluoromethylnicotinic acid chloride | FC(C1=CC=NC=C1C(=O)Cl)(F)F | C7H3ClF3NO
